US06020329
(f) 4-Methoxybenzyl (6R,7R)-3-[(2RS,5SR)-5-methoxymethyltetrahydrofuran-2-yl]-7-phenoxyacetamidoceph-3-em-4-carboxylate.
A solution of 4-methoxybenzyl 2-[(3R,4R)-4-[(2RS,5SR)-5-methoxymethyltetrahydrofuran-2-ylcarbonylmethylthio]-3-phenoxyacetamidoazetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate (4.25g) and benzoic acid (20mg) in toluene (100ml) was heated to reflux for 10h. The mixture was cooled and the solvent evaporated. The product (1.93g) was isolated by column chromatography of the residue using gradient elution (silica gel 1:1 hexane : ethyl acetate going to neat ethyl acetate); vmax (CHCl3) 3409, 1784, 1722 and 1695cm-1.

reactant | 4-methoxybenzyl 2-[(3R,4R)-4-[(2RS,5SR)-5-methoxymethyltetrahydrofuran-2-ylcarbonylmethylthio]-3-phenoxyacetamidoazetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate | 4.25g | COCC1CCC(O1)C(=O)CS[C@@H]1[C@@H](C(N1C(C(=O)OCC1=CC=C(C=C1)OC)=P(CCCC)(CCCC)CCCC)=O)NC(COC1=CC=CC=C1)=O | C41H59N2O9PS
reactant | benzoic acid | 20mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 100ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methoxybenzyl (6R,7R)-3-[(2RS,5SR)-5-methoxymethyltetrahydrofuran-2-yl]-7-phenoxyacetamidoceph-3-em-4-carboxylate | 1.93g | COCC1CCC(O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C29H32N2O8S
